US07321040B2
E [2-(6-Hydrazino-pyridin-3-yloxy)-phenyl]-methanol
A mixture of [2-(6-chloro-pyridin-3-yloxy)-phenyl]-methanol (235 mg, 1 mmol) and hydrazine monohydrate (5 mL) was heated at 120° C. for 4 hours. The reaction was then cooled and concentrated in vacuo to an oil. The residue was then diluted with saturated NaHCO3, and the aqueous extracted with methylene chloride. The organics were washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford the above named compound.

reactant | [2-(6-chloro-pyridin-3-yloxy)-phenyl]-methanol | 1 mmol, 235 mg | ClC1=CC=C(C=N1)OC1=C(C=CC=C1)CO | C12H10ClNO2
reactant | hydrazine monohydrate | 5 mL | O.NN
product | [2-(6-Hydrazino-pyridin-3-yloxy)-phenyl]-methanol | N(N)C1=CC=C(C=N1)OC1=C(C=CC=C1)CO | C12H13N3O2
